US04515624
2-(Dimethylaminosulfonyloxy)benzenesulfonyl isocyanate
To 6.0 g (0.021 mole) 2-(dimethylaminosulfonyloxy)benzenesulfonamide suspended in 75 ml dry xylenes was added 2.1 g (0.021 mole) N-butyl isocyanate and a catalytic amount of 1,4-diazobicyclo[2.2.2]octane (~0.05 g). This mixture was rapidly heated to reflux temperature (~135° C.) and 3.0 ml of phosgene was slowly added (at such a rate as to keep the reaction temperature greater than 128° C.). The phosgene addition required ~3 hours. The reaction was cooled to room temperature, filtered under N2, and the solvent evaporated under reduced pressure. The infrared spectrum of the resultant oil was consistent for 2-(dimethylaminosulfonyloxy)benzenesulfonyl isocyanate, (2240 cm-1).

reactant | 2-(dimethylaminosulfonyloxy)benzenesulfonamide | 0.021 mole, 6.0 g | CN(S(=O)(=O)OC1=C(C=CC=C1)S(=O)(=O)N)C | C8H12N2O5S2
reactant | N-butyl isocyanate | 0.021 mole, 2.1 g | CCCCN=C=O | C5H9NO
reactant | 1,4-diazobicyclo[2.2.2]octane | ~0.05 g | C1CN2CCN1CC2 | C6H12N2
reactant | phosgene | 3.0 ml | C(=O)(Cl)Cl | CCl2O
product | 2-(Dimethylaminosulfonyloxy)benzenesulfonyl isocyanate | CN(S(=O)(=O)OC1=C(C=CC=C1)S(=O)(=O)N=C=O)C | C9H10N2O6S2
